US06258850B1
A solution of 3-(4-benzyloxyphenyl)-2-ethoxypropanoic acid (2.92 g, 9.74 mmole) in dry dichloromethane (30 ml) was cooled on an ice-bath and EDC (2.03g; 10.61 mmole), diisopropylethylamine (1.84 ml, 10.61 mmole) and HOBt x H2O (1.43 g; 10.61 mmole) were added. After 30 minutes the ice-bath was removed and (R)-phenylglycinol (1.46 g, 10.61 mmole) was added. After stirring at room temperature over night ethyl acetate (100 ml) was added and the mixture was washed with potassium hydrogensulfate (1 M), saturated sodium bicarbonate solution, sodium carbonate solution and brine. The organic phase was dried (sodium sulfate), filtered and the solvent was evaporated in vacuo. The crude product was purified by chromatography on silica gel using ethyl acetate:heptan to give 1.5 g (yield 37%) of 3-(4-benzyloxyphenyl)(S)-2-ethoxy-N-(2-hydroxy-(R)-1-phenylethyl)propanoic amide and 1.25 g (yield 31%) of 3-(4-benzyloxyphenyl)-(R)-2-ethoxy-N-(2-hydroxy-(R)-1-phenylethyl)propanoic amide.

reactant | 3-(4-benzyloxyphenyl)-2-ethoxypropanoic acid | 9.74 mmole, 2.92 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)O)OCC | C18H20O4
reactant | EDC | 10.61 mmole, 2.03g
reactant | diisopropylethylamine | 10.61 mmole, 1.84 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBt | 10.61 mmole, 1.43 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-phenylglycinol | 10.61 mmole, 1.46 g | C1=CC=C(C=C1)C(CO)N | C8H11NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | heptan | CCCCCCC | C7H16
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-benzyloxyphenyl)-(R)-2-ethoxy-N-(2-hydroxy-(R)-1-phenylethyl)propanoic amide | 1.25 g, yield 31% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@H](C(=O)N[C@@H](CO)C1=CC=CC=C1)OCC | C26H29NO4
